US09403833B2
Step 6: 2-(Methylthio)-7-(trifluoromethoxy)-4,5-dihydro-3H-benzo[b]azepine
To a solution of 7-(trifluoromethoxy)-4,5-dihydro-1H-benzo[b]azepine-2(3H)-thione (22 g, 84.3 mmol) in acetone (1500 ml) was added KOH (7.1 g, 127 mmol) and Mel (18.1 g, 127 mmol) and the mixture was stirred at RT for 1 h. The resulting mixture was concentrated under reduced pressure and the crude product was dissolved in DCM (1000 mL). The mixture was washed with water, brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give a yellow oil. The oil was purified by flash column chromatography on neutral aluminium oxide eluting with hexane to give the title compound.

reactant | 7-(trifluoromethoxy)-4,5-dihydro-1H-benzo[b]azepine-2(3H)-thione | 84.3 mmol, 22 g | FC(OC1=CC2=C(NC(CCC2)=S)C=C1)(F)F | C11H10F3NOS
reactant | KOH | 127 mmol, 7.1 g | [OH-].[K+]
reactant | acetone | 1500 ml | CC(=O)C | C3H6O
product | 2-(Methylthio)-7-(trifluoromethoxy)-4,5-dihydro-3H-benzo[b]azepine | CSC=1CCCC2=C(N1)C=CC(=C2)OC(F)(F)F | C12H12F3NOS
